US07517873B2
To a mixture of (rac)-3-amino-2-methylpropanoic acid ethyl ester hydrochloride (prepared from 3.09 g, 0.030 mole of (rac)-3-amino-2-methylpropanoic acid, thionyl chloride and ethanol) and 2.8 mL (0.0315 mole) of cyclopentanone and 100 mL of dichloromethane was added 5.4 g (0.066 mole) of sodium acetate and 9.54 g (0.045 mole) of sodium triacetoxyborohydride. The mixture was stirred at ambient temperature for 3 hrs and then quenched by the addition of 50 mL of 10% sodium bicarbonate solution. The aqueous layer was extracted with twice with 100 mL of dichloromethane, and the combined dichloromethane layers dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5 gradient) to give 2.86 g of (rac)-3-cyclopentylamino-2-methyl-propanoic acid ethyl ester.

reactant | (rac)-3-amino-2-methylpropanoic acid ethyl ester hydrochloride | 0.030 mole, 3.09 g | Cl.C(C)OC(C(CN)C)=O
reactant | cyclopentanone | 0.0315 mole, 2.8 mL | C1(CCCC1)=O | C5H8O
reactant | sodium acetate | 0.066 mole, 5.4 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.045 mole, 9.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (rac)-3-cyclopentylamino-2-methyl-propanoic acid ethyl ester | 2.86 g | C(C)OC(C(CNC1CCCC1)C)=O | C11H21NO2
